data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][O+:21](CC=CCC(=O)OCC)C(CC1=CC=CC=C1)([O-])OC(=NC2CCCCC2)NC3CCCCC3.C1CC[N:14](C1)[C:13]2=[CH:12][CH:11]=[N:10]C=C2>>CCOC(=O)CC=CC[O:21]C(CC1=CC=CC=C1)([O-])OC(=NC2CCCCC2)NC3CCCCC3.[H:20][N:10]1C=C[C:13](=[N+:14]2CCCC2)[CH:12]=[CH:11]1 10,11=10,20;20,21=21;12,13=11,12;14=13
CCO[C:20](C)([OH:21])[O-:10]>>CCO[C:20](=[O:10])C.[OH-:21] 10=20;20,21=21
CC(C)C1CC2CC3CC2C1CC3(C)[N+:21]#[CH:20].[OH2:10].CC(=O)O.OS(=O)(=O)[O-].[Na+]>>CC(C)C1CC2CC3CC2C1CC3(C)[N:21]=[CH:20][OH2+:10].CC(=O)O.OS(=O)(=O)[O-].[Na+] 10=20;20,21=21
C[CH+:20][C:11]1(CCC[CH2:10]1)C>>C[CH:20]1[CH2:10]CCC[C+:11]1C 10,11=10,20
COC1=CC=C(C=C1)[C+:20](C2=CC=CC=C2)C3=CC=C(C=C3)OC.C(=O)(C(Cl)(Cl)Cl)[O-:10]>>COC1=CC=C(C=C1)[C:20](C2=CC=CC=C2)(C3=CC=C(C=C3)OC)[O:10]C(=O)C(Cl)(Cl)Cl 10=20,
[H:20][O:21]C1=CC(=CC(=C1)CCCCC)O.C1=CC=[N:10]C=C1.CC(=CCCC(=CC=O)C)C>>[H:20][N+:10]1=CC=CC=C1.CCCCCC1=CC(=CC(=C1)O)[O-:21].CC(=CCCC(=CC=O)C)C 10=20;20,21=21
COC1=C2C3=C(CC4C5(C3(CCN4CC6CC6)C(O2)[C:20](=[O:21])CC5)O)C=C1.N[NH2:10].C(COCCO)O.O>>COC1=C2C3=C(CC4C5(C3(CCN4CC6CC6)C(O2)[C:20](CC5)([NH2+:10]N)[O-:21])O)C=C1.C(COCCO)O.O 10=20;20,21=21
[CH2:20]([OH:10])[Br:21]>>[CH2:20]=[OH+:10].[Br-:21] 10=20;20,21=21
[H:20][C:21]1([CH+:22]C2=C(O1)C=CC=C2)C(=O)[O-].[OH-:10].[Br-]>>[H:20][OH:10].C1=CC2=C(C=C1)O[C:21](=[CH:22]2)C(=O)[O-].[Br-] 10=20;20,21=21,22
[H:20][OH2+:21].CC=CC(C)(C(C=C)C(=O)C)[O-:10]>>[H:20][O:10]C(C)(C=CC)C(C=C)C(=O)C.[OH2:21] 10=20;20,21=21
C[C:20](=[O:21])C(=[N+]=[N-])P(=O)(OC)OC.C[O-:10]>>C[C:20](C(=[N+]=[N-])P(=O)(OC)OC)([O-:21])[O:10]C 10=20;20,21=21
[H:20][C:21](C1=CC=CC=C1)([C:22](=[O:23])C(C)C)C(CC2=CC=CC=C2)(C(C)C)O.CC[O-:10]>>[H:20][O:10]CC.CC(C)[C:22](=[C:21](C1=CC=CC=C1)C(CC2=CC=CC=C2)(C(C)C)O)[O-:23] 10=20;22,23=23;20,21=21,22
CCNC(=O)CCC[NH:10]CC1CCCCC1.C1CCC(CC1)CC[N+:21]23CCCC2[CH2:20]3.[Cl-]>>CCNC(=O)CCC[NH+:10](CC1CCCCC1)[CH2:20]C2CCC[N:21]2CCC3CCCCC3.[Cl-] 10=20;20,21=21
CC[OH:10].C=C[C:20](=[OH+:21])Cl>>CC[OH+:10][C:20](C=C)([OH:21])Cl 10=20;20,21=21
CCCCCC1=CC=C(C=C1)[CH:20]([C:11](C)([C:10]2=CC=CC(=C2)C3CCCCC3)[OH:12])[OH2+:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-]>>CCCCCC1=CC=C(C=C1)[CH:20]([C:10]2=CC=CC(=C2)C3CCCCC3)[C:11](=[OH+:12])C.[OH2:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.C1=C(C=C(C(=C1)O)O)C(=[O:10])O.CCCCCCCCO.C1CCOC1>>[H:20][O+:10]=C(C1=CC=C(C(=C1)O)O)O.CC1=CC=C(C=C1)S(=O)(=O)[O-:21].CCCCCCCCO.C1CCOC1 10=20;20,21=21
[H:10][C:11]1(CCC(CC1)CCC)[O:12][Al-](OC(C)C)(OC(C)C)[O+:21]=[C:20](C)C.CC(C)[O-]>>[H:10][C:20](C)(C)[O:21][Al-](OC(C)C)(OC(C)C)[O+:12]=[C:11]1CCC(CC1)CCC.CC(C)[O-] 10,11=10,20;20,21=21;12=11
C[C:11](C)(C)[O:10][C:20](=[OH+:21])NC(CC1=CC=CC=C1)C(=O)NCCC(=O)O.C(=O)(C(F)(F)F)[O-].[Cl-]>>C[C+:11](C)C.C1=CC=C(C=C1)CC(C(=O)NCCC(=O)O)N[C:20](=[O:10])[OH:21].C(=O)(C(F)(F)F)[O-].[Cl-] 10,11=10,20;20,21=21
CCC(C)[NH2:10].[CH3:20][I:21]>>CCC(C)[NH2+:10][CH3:20].[I-:21] 10=20;20,21=21
CC1=C[C:11]2=[C:10](C=C1OC)[C:20](C([O:12]2)C(=O)[O-])(C)[O:21]C(=O)C.CC(=O)[O-].[Na+]>>CC1=C[C:11]2=[O+:12]C([C:20](=[C:10]2C=C1OC)C)C(=O)[O-].CC(=O)[O-:21].CC(=O)[O-].[Na+] 10,11=10,20;20,21=21;12=11
[H:20][OH2+:21].CC1(C2CCC1(C(C2)[OH:10])C)C>>[H:20][OH+:10]C1CC2CCC1(C2(C)C)C.[OH2:21] 10=20;20,21=21
CC1=CC=C(N1)C2=CC(=CC(=C2)C(=O)CCC(=O)C)[C:20](=[O:21])CC=C(C)[NH2:10].CC(=O)O.C(=O)[O-].O>>CC1=CC[C:20]([NH2+:10]1)(C2=CC(=CC(=C2)C3=CC=C(N3)C)C(=O)CCC(=O)C)[O-:21].CC(=O)O.C(=O)[O-].O 10=20;20,21=21
C1CC[C:20](=[O:21])C1.C1COCC[NH:10]1.CC1=CC=C(C=C1)S(=O)(=O)O.C1=CC=CC=C1>>C1CC[C:20](C1)([NH+:10]2CCOCC2)[O-:21].CC1=CC=C(C=C1)S(=O)(=O)O.C1=CC=CC=C1 10=20;20,21=21
[H:20][C:21]1(C=CC=C[C+:22]1C#C)C(=C)C2=CC=CC=C2.[F-:10]>>[H:20][F:10].C=C(C1=CC=CC=C1)[C:21]2=[C:22](C=CC=C2)C#C 10=20;20,21=21,22
[H:20][N:21]=NC1CCC2(C3CC4=C5C2(C1OC5=C(C=C4)OC)CCN3CC6=CC=CC=C6)O.[OH-:10].[K+]>>[H:20][OH:10].COC1=C2C3=C(CC4C5(C3(CCN4CC6=CC=CC=C6)C(O2)C(CC5)N=[N-:21])O)C=C1.[K+] 10=20;20,21=21
CCCCCC1=C[C:11](=[CH:10]C(=C1)O)O.CC(=C[CH2+:20])C.CC1=CC=C(C=C1)S(=O)(=O)[O-].O>>CCCCCC1=C[C+:11]([CH:10](C(=C1)O)[CH2:20]C=C(C)C)O.CC1=CC=C(C=C1)S(=O)(=O)[O-].O 10,11=10,20
[H:20][Cl:21].CC1(CCCC[CH:10]=[C:11]1C2=CC=CC=C2)C>>[H:20][CH:10]1CCCCC([C+:11]1C2=CC=CC=C2)(C)C.[Cl-:21] 10,11=10,20;20,21=21
[H:20][Br:21].CC1=CC=C(C=C1)C2CC3(C(CCC3=O)C4[C:10]2=[C:11]5CC=C(C=C5CC4)OC(=O)C)C>>[H:20][C:10]12C(CCC3=CC(=CC[C+:11]31)OC(=O)C)C4CCC(=O)C4(CC2C5=CC=C(C=C5)C)C.[Br-:21] 10,11=10,20;20,21=21
[CH3:20][O:21][PH+:22](Cl)Cl.[Cl-:10]>>[CH3:20][Cl:10].[O:21]=[PH:22](Cl)Cl 10=20;20,21=21,22
[H:10][BH3-:11].CCCC(CC(=O)OC(C)(C)C)[C:20](=[O:21])OC(=O)OCC.[Na+]>>[H:10][C:20](C(CCC)CC(=O)OC(C)(C)C)([O-:21])OC(=O)OCC.[BH3:11].[Na+] 10,11=10,20;20,21=21
CC=C[CH2:10][Mg:11]Br.C[C:20](=[O:21])C>>CC=C[CH2:10][C:20](C)(C)[O-:21].[Mg+:11]Br 10,11=10,20;20,21=21
[Li:20]N([Si](C)(C)C)[Si](C)(C)C.CCCCC1C(CC2(C(O1)CC3C(O2)CCC(=[O:10])C(O3)CO[Si](C)(C)C(C)(C)C)C)CCC>>[Li-:20](N([Si](C)(C)C)[Si](C)(C)C)[O+:10]=C1CCC2C(CC3C(O2)(CC(C(O3)CCCC)CCC)C)OC1CO[Si](C)(C)C(C)(C)C 10=20,
[B:20](F)(F)F.C(=[O:10])O>>[B-:20]([O+:10]=CO)(F)(F)F 10=20,
